US06627630B1
3.70 g of potassium phthalimide was dissolved in 20 ml of N,N-dimethylformamide; 2.58 ml of epibromohydrin was added, followed by stirring at room temperature for 15 hours. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate; the extract was washed with saline, dried over magnesium sulfate and concentrated under reduced pressure; ethyl ether was added to the residue; the crystal precipitated was collected to yield 3.7 g of N-(2-oxiranylmethoxy)phthalimide. 0.61 g of N-(2-oxiranylmethoxy)phthalimide and 0.802 g of 4-(diphenylmethoxy)piperidine were dissolved n 10 ml of ethanol, followed by thermal refluxing for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected to yield 1.30 g of N-[3-[4-(diphenylmethoxy)piperidino-2-hydroxypropyl]phthalimide as an oily substance. This oily substance was dissolved in 10 ml of ethanol; 0.14 ml of hydrazine monohydrate was added, followed by thermal refluxing for 3 hours. After cooling, the mixture was concentrated under reduced pressure; ethanol was added to the residue; the crystal precipitated was collected, dissolved in 3 ml of a 1 N aqueous solution of sodium hydroxide and 10 ml of water and extracted with ethyl acetate; the extract was washed with saline, dried over sodium sulfate and concentrated under reduced pressure; the crystal obtained was collected to yield 0.76 g of the title compound.

reactant | N-(2-oxiranylmethoxy)phthalimide | 0.61 g | O1C(C1)CON1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | 4-(diphenylmethoxy)piperidine | 0.802 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[4-(diphenylmethoxy)piperidino-2-hydroxypropyl]phthalimide | C1(=CC=CC=C1)C(OC1CCN(CC1)CC(CC1=C2C(C(=O)NC2=O)=CC=C1)O)C1=CC=CC=C1 | C29H30N2O4
